US09403773B2
5-[(5-Fluoro-2-propoxyphenylamino)methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione (7.6 g, 23.5 mmol) was added to diphenyl ether (15 ml), and the mixture was heated using a mantle heater, and then kept under reflux for 2 hours. After the reaction mixture was cooled to room temperature, ethyl acetate (5 ml) and n-hexane (10 ml) were added. The resulting mixture was stirred and the resultant insoluble matter was collected by filtration. The filtrate was recrystallized from an ethyl acetate-n-hexane mixed solvent to thereby obtain 3.15 g of powdery dark brown 5-fluoro-8-propoxy-1H-quinolin-4-one (yield: 61%).

reactant | 5-[(5-Fluoro-2-propoxyphenylamino)methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 23.5 mmol, 7.6 g | FC=1C=CC(=C(C1)NC=C1C(OC(OC1=O)(C)C)=O)OCCC | C16H18FNO5
reactant | diphenyl ether | 15 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | 5-fluoro-8-propoxy-1H-quinolin-4-one | 3.15 g, yield: 61% | FC1=C2C(C=CNC2=C(C=C1)OCCC)=O | C12H12FNO2
